US07652023B2
To a solution of (S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine (200 mg, 0.45 mmol) in DCM (2 mL) was added 4-nitrophenyl carbonochloridate (226.9 mg, 1.13 mmol) followed by the addition of K2CO3 (620.6 mg, 4.5 mmol). The reaction mixture was stirred at room temperature for 18 h and filtered through a small silica pad. The filtrate was diluted with DCM (20 mL), washed with saturated NaHCO3 (8×15 mL) till the aqueous layer only showed light yellow color. The organic layer was dried over MgSO4, filtered and concentrated to give (S)-4-nitrophenyl 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethylcarbamate as a yellow oil (273 mg, crude 100%). This yellow oil was used directly to the next step without further purification. LCMS RT=2.213 min [M+H] 607.94 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm)

reactant | (S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine | 0.45 mmol, 200 mg | ClC=1C=CC(=NC1)[C@@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C21H16ClF5N2O
reactant | 4-nitrophenyl carbonochloridate | 1.13 mmol, 226.9 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | K2CO3 | 4.5 mmol, 620.6 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-nitrophenyl 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethylcarbamate | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C28H19ClF5N3O5
